US05451601
A solution of 0.12 g of sodium borohydride and 0.05 cm3 of 10N sodium hydroxide in 20 cm3 of methanol is added over 10 minutes to a suspension, cooled to +5° C., of 2.0 g of (3aRS,7aRS)-7,7-diphenyl-2-phenylacetyl-4-perhydro-isoindolone in 100 cm3 of methanol. The reaction mixture is stirred for 2 hours at low temperature, followed by the addition of 0.5 cm3 of 1N hydrochloric acid and concentration to a reduced volume, at 40° C. under reduced pressure (2.7 kPa). The residue is taken up in 50 cma of water and 150 cm3 of dichloromethane. After stirring, the organic phase is dried over magnesium sulphate and concentrated to dryness. The solid is crystallized from acetonitrile, the crystals are washed with acetonitrile and diisopropyl oxide, drained and then dried. 0.24 g of (3aRS,4RS,7aRS)-7,7-diphenyl-2-phenyl-acetyl-4-perhydroisoindolol is obtained in the form of white crystals; melting point 220° C.

reactant | sodium borohydride | 0.12 g | [BH4-].[Na+]
reactant | sodium hydroxide | 10N, 0.05 cm3 | [OH-].[Na+]
reactant | (3aRS,7aRS)-7,7-diphenyl-2-phenylacetyl-4-perhydro-isoindolone | 2.0 g | C1(=CC=CC=C1)C1(CCC(C2CNC(C12)C(CC1=CC=CC=C1)=O)=O)C1=CC=CC=C1 | C28H27NO2
reactant | hydrochloric acid | 1N, 0.5 cm3 | Cl | ClH
solvent | methanol | 20 cm3 | CO | CH4O
solvent | methanol | 100 cm3 | CO | CH4O
solvent | dichloromethane | 150 cm3 | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (3aRS,4RS,7aRS)-7,7-diphenyl-2-phenyl-acetyl-4-perhydroisoindolol | 0.24 g | C1(=CC=CC=C1)C1(CCC(C2CNC(C12)C(CC1=CC=CC=C1)=O)O)C1=CC=CC=C1 | C28H29NO2
